US07700641B2
B. Synthesis of 3-(5-bromo-2-hydroxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one
To a solution of 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one (2.22 g, 5.64 mmol) in dichloromethane (10.0 mL) were added trifluoroacetic acid (1.00 mL) and triethylsilane (1.00 mL) at ambient temperature. The reaction mixture was stirred at 50° C. for 15 hrs and concentrated in vacuo to dryness to give the title compound: MS (ES+) m/z 374 (M+1), 376 (M+1).

reactant | 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one | 5.64 mmol, 2.22 g | BrC=1C=CC(=C(C1)C1(C(N(C2=CC=CC=C12)CCCCC)=O)O)O | C19H20BrNO3
reactant | trifluoroacetic acid | 1.00 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 1.00 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 10.0 mL | ClCCl | CH2Cl2
product | 3-(5-bromo-2-hydroxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1C(N(C2=CC=CC=C12)CCCCC)=O)O | C19H20BrNO2
